US05334748
A mixture of 2-bromophenylacetic acid (21.5 g), 3-nitrophenol (29.2 g), potassium carbonate (27.6 g) and cuprous chloride (0.5 g) was heated with stirring at 130° C. for 6 hours. After cooling, the mixture was poured into water (500 ml), acidified with concentrated hydrochloric acid and extracted with ethyl acetate (3×200 ml). The extracts were dried, filtered and concentrated to give a dark oil. The oil was dissolved in methanol (400 ml) containing concentrated sulphuric acid (4 ml) and the resulting solution was heated at reflux for 3 hours. The reaction mixture was concentrated and the residue was dissolved in ethyl acetate (300 ml). This solution was washed successively with sodium hydroxide (2×100 ml of 1M aqueous solution) and brine, then dried, filtered and concentrated to give a dark oil. Bulb-to-bulb distillation of this oil (220° C. oven temperature, 0.2 mmHg) gave methyl 2-(3-nitrophenoxy)phenylacetate (16.74 g, 58% yield from 2-bromophenylacetic acid) as a clear pale oil.

reactant | 2-bromophenylacetic acid | 21.5 g | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 3-nitrophenol | 29.2 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | sulphuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 400 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | methyl 2-(3-nitrophenoxy)phenylacetate | 16.74 g, 58% yield | [N+](=O)([O-])C=1C=C(OC2=C(C=CC=C2)CC(=O)OC)C=CC1 | C15H13NO5
